US04423047
2-(4-Chlorophenoxymethyl)thio-5-chloropyrimidine
2-(Iodomethyl)thio-5-chloropyrimidine was added to a solution of p-chlorophenol (5.5 mmol) and 0.138 M NaOEt in ethanol (40 ml) and the mixture stirred at room temperature overnight. The solvent was distilled off and the mixture worked up as above; yield 64%.

reactant | 2-(Iodomethyl)thio-5-chloropyrimidine | ICSC1=NC=C(C=N1)Cl | C5H4ClIN2S
reactant | p-chlorophenol | 5.5 mmol | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | NaOEt | 0.138 M | CC[O-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-(4-Chlorophenoxymethyl)thio-5-chloropyrimidine | yield 64% | ClC1=CC=C(OCSC2=NC=C(C=N2)Cl)C=C1 | C11H8Cl2N2OS
